US06177073B1
A solution of oxalyl chloride (42 mL) in dry methylene dichloride (750 mL) was cooled under a nitrogen atmosphere to −75° C. Dimethylsulfoxide (72 mL) was added dropwise with stirring, followed after 10 minutes by a solution of 4-(n-heptyloxy)butan-1-ol (75.2 g from below) in methylene dichloride (75 mL). The mixture was stirred and allowed to warm to −45° C., then was again cooled to −75° C. and treated dropwise with triethylamine (292 mL). After the addition was complete, the cooling bath was removed and the mixture was allowed to slowly warm to room temperature and stir one hour. Ice was added, and the product was partitioned between water and methylene dichloride. The solvent was removed with a rotary evaporator, and the residue was dissolved in petroleum ether (500 mL) and the solution was rinsed in water, cold aqueous hydrochloric acid, water, and saturated aqueous sodium bicarbonate. After drying over magnesium sulfate, the solvent was stripped in vacuo, and the residue was distilled to give 57.6 g (77%) of 4-(n-heptyloxy)butanal, b.p. 60° C., 0.26 Torr.

reactant | oxalyl chloride | 42 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | Dimethylsulfoxide | 72 mL | CS(=O)C | C2H6OS
reactant | 4-(n-heptyloxy)butan-1-ol | 75.2 g | C(CCCCCC)OCCCCO | C11H24O2
reactant | triethylamine | 292 mL | C(C)N(CC)CC | C6H15N
solvent | methylene dichloride | 750 mL | C(Cl)Cl | CH2Cl2
solvent | methylene dichloride | 75 mL | C(Cl)Cl | CH2Cl2
product | 4-(n-heptyloxy)butanal | 57.6 g, 77% | C(CCCCCC)OCCCC=O | C11H22O2
